US09212187B2
3-({N-(1-Ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-ylmethyl)-N-[2-(2-methyl-4-oxo-4H-furo[3,2-c]pyridin-5-yl)ethyl]amino}methyl)pyridine-2-carbaldehyde
2-iodoxybenzoic acid (IBX, 0.235 g) was added to the dimethyl sulfoxide suspension (10 mL) of 1-ethyl-7-((N-((2-(hydroxymethyl)pyridin-3-yl)methyl)-N-(2-(2-methyl-4-oxofuro[3,2-c]pyridin-5(4H)-yl)ethyl)amino)methyl)-3,3,5-trimethyl-1H-benzo[b][1,4]diazepine-2,4(3H,5H)-dione (0.48 g) and the mixture was stirred overnight at room temperature. Water was added to the resulting mixture and then the mixture was extracted with ethyl acetate twice. The combined organic layer was concentrated under reduced pressure, and then the residue was purified by column-chromatography (ethyl acetate: hexanes=50:50→100:0). The purified product was recrystallized from ether to afford the titled compound as ivory powder (0.29 g).

reactant | 2-iodoxybenzoic acid | 0.235 g | I(=O)(=O)C1=C(C(=O)O)C=CC=C1 | C7H5IO4
reactant | dimethyl sulfoxide | 10 mL | CS(=O)C | C2H6OS
reactant | 1-ethyl-7-((N-((2-(hydroxymethyl)pyridin-3-yl)methyl)-N-(2-(2-methyl-4-oxofuro[3,2-c]pyridin-5(4H)-yl)ethyl)amino)methyl)-3,3,5-trimethyl-1H-benzo[b][1,4]diazepine-2,4(3H,5H)-dione | 0.48 g | C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)CN(CCN2C(C1=C(C=C2)OC(=C1)C)=O)CC=1C(=NC=CC1)CO | C32H37N5O5
solvent | Water | O | H2O
product | 3-({N-(1-Ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-ylmethyl)-N-[2-(2-methyl-4-oxo-4H-furo[3,2-c]pyridin-5-yl)ethyl]amino}methyl)pyridine-2-carbaldehyde | 0.29 g | C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)CN(CCN2C(C1=C(C=C2)OC(=C1)C)=O)CC=1C(=NC=CC1)C=O | C32H35N5O5
